US08293758B2
(±)-2-Benzyl-4-dimethylamino-4-phenylcyclohexanone
Diisopropylamine (2.1 ml, 15 mmol) was provided in dry THF (30 ml) in argon and mixed with a solution of butyl lithium in hexane (2.5M, 6 ml, 15 mmol) at −30° C. (bath temperature. The reaction mixture was cooled to −78° C. After this temperature was reached, 4-(dimethylamino)-4-phenylcyclohexanone (2.17 g, 10 mmol), dissolved in dry THF (10 ml), was added in drops within 15 min. The batch was left for 30 min at −78° C. Benzyl bromide (3.6 ml, 30 mmol), dissolved in dry THF (20 ml), was then added within 10 min. The reaction mixture was stirred for a further 15 min at 78° C. (?), then the cooling removed. After room temperature was reached, the batch was stirred for a further 18 h. For work up the batch was carefully mixed with water (1 ml), then saturated NH4Cl solution (40 ml) was added. The organic phase was separated and the aqueous solution extracted with ethyl acetate (3×20 ml). The combined organic phases were washed with saturated NH4Cl solution (2×40 ml). The organic phases were then mixed with 1N HCl (50 ml) and thoroughly shaken out. The acid aqueous phase was separated, the organic phase washed with water (2×20 ml). The combined aqueous phases were washed with ethyl acetate (1×30 ml). The aqueous solution was then placed on 70 ml of 2N NaOH. An oil separated out of the alkaline solution. The formed mixture was extracted with ethyl acetate (3×30 ml). The combined organic phases were dried over MgSO4 and then concentrated to low volume. One of the possible diastereoisomers was isolated from the residue (2.27 g) by chromatographic purification [silica gel 60 (50 g); ethyl acetate (1000 ml)].

reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 15 mmol, 2.5M, 6 ml | CCCCCC | C6H14
reactant | 4-(dimethylamino)-4-phenylcyclohexanone | 10 mmol, 2.17 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | Benzyl bromide | 30 mmol, 3.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (±)-2-Benzyl-4-dimethylamino-4-phenylcyclohexanone | 2.27 g | C(C1=CC=CC=C1)C1C(CCC(C1)(C1=CC=CC=C1)N(C)C)=O | C21H25NO
